US07446102B2
(2S)-2-{[(Benzyloxy)carbonyl]amino}-4-[(tert-butoxycarbonyl)amino]butanoic acid
500 mg (1.98 mmol) of (2S)-4-amino-2-{[(benzyloxy)carbonyl]amino}butanoic acid are dissolved in 5 ml of water and 5 ml of a 1N sodium hydroxide solution. 649 mg (2.97 mmol) of di-tert-butyl dicarbonate in 2 ml of methanol are added. The mixture is briefly heated to 30° C. in a water bath and stirred at room temperature overnight. After concentration in vacuo, purification by chromatography on silica gel (dichloromethane/methanol/concentrated ammonia solution 85:15:3) results in the title compound.

reactant | (2S)-4-amino-2-{[(benzyloxy)carbonyl]amino}butanoic acid | 1.98 mmol, 500 mg | NCC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C12H16N2O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.97 mmol, 649 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 5 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | (2S)-2-{[(Benzyloxy)carbonyl]amino}-4-[(tert-butoxycarbonyl)amino]butanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CCNC(=O)OC(C)(C)C | C17H24N2O6
